US07678815B2
4-Cyclopropyl-thiazol-2-ylamine
A solution of 2-Bromo-1-cyclopropyl-ethanone (CAS [69267-75-0], Indian J. Chem. Sect. B, 22(9), 841(1983) (1 g, 6.1 mmol) and thiourea (0.481 g, 6.1 mmol) in 15 ml of methanol was refluxed overnight. The solvent was evaporated off and the title compound was obtained as an off-white solid (1.38 g, 100%).

reactant | 2-Bromo-1-cyclopropyl-ethanone | BrCC(=O)C1CC1 | C5H7BrO
reactant | thiourea | 6.1 mmol, 0.481 g | NC(=S)N | CH4N2S
solvent | methanol | 15 ml | CO | CH4O
product | 4-Cyclopropyl-thiazol-2-ylamine | C1(CC1)C=1N=C(SC1)N | C6H8N2S
